US09192606B2
To a slurry of 3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)-t-butylbenzoate (1.0 eq) in MeCN (3.0 vol) is added water (0.83 vol) followed by concentrated aqueous HCl (0.83 vol). The mixture is heated to 45±5° C. After stirring for 24 to 48 hours the reaction is complete and the mixture is allowed to cool to ambient. Water (1.33 vol) is added and the mixture stirred. The solid is collected by filtration, washed with water (2×0.3 vol), and partially dried on the filter under vacuum. The solid is dried to constant weight (<1% difference) in a vacuum oven at 60° C. with a slight N2 bleed to afford 3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)benzoic acid.HCl as an off-white solid.

reactant | 3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)-t-butylbenzoate | 1.0 eq | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C=2C(=C(C(=O)[O-])C=CC2)C(C)(C)C)C)F
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | MeCN | CC#N | C2H3N
product | 3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)benzoic acid | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C=2C=C(C(=O)O)C=CC2)C)F | C24H18F2N2O5
